US05929085
(a) 1,3,4,6,11,11a-Hexahydro-2H-benzo[b]quinolizin-6-one
To a solution of 1,3,4,6-tetrahydro-2H-benzo[b]quinolizin-6-one (4.02 g, 20.2 mmol) (M. A. Haimova, V. I. Ognyanov, and N. M. Mollov, Synthesis, 1980, 845) in ethanol (250 ml) and 2.5M hydrochloric acid (10 ml) was added 10% palladium-on-carbon (0.8 g) and the solution was shaken on a Parr Hydrogenator for 72 h. The catalyst was filtered off and the filtrate was concentrated to give an oil which was partitioned between ethyl acetate and dilute base. The dried (magnesium sulfate) organic phase was concentrated in vacuo and then placed on a high vacuum system to give the title compound as a white solid (3.8 g, 94%), m.p. 88-92° C.

reactant | 1,3,4,6-tetrahydro-2H-benzo[b]quinolizin-6-one | 20.2 mmol, 4.02 g | C1CCCN2C(C3=C(C=C12)C=CC=C3)=O | C13H13NO
reactant | hydrochloric acid | 2.5M, 10 ml | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.8 g | [Pd] | Pd
product | 1,3,4,6,11,11a-Hexahydro-2H-benzo[b]quinolizin-6-one | 3.8 g, 94% | C1CCCN2C(C3=C(CC12)C=CC=C3)=O | C13H15NO
